US08119655B2
Compound 32: 8-chloro-5-[3-(ethylsulfonyl)phenyl]-3-methyl-9H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine
A 500 mL round bottom flask equipped with an N2 inlet and reflux condenser was charged with 5-[3-(ethylsulfonyl)phenyl]-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one (19.3 g, 39.584 mmol), tetramethylammonium chloride (4.77 g, 43.542 mmol), and POCl3 (249.5 g, 1626.905 mmol) at room temperature, transferred to an oil bath and heated at 100° C. The reaction was monitored by HPLC, and determined to be complete after 2 h. The mixture was allowed to cool to ambient temperature. A separate 3 neck, 3 L flask was fitted with a cold thermometer, and two addition funnels. To this flask was added a solution of 33% by weight aqueous K3PO4 (1500 mL), cooled in a dry ice/acetone bath, followed by the drop-wise addition of the aryl chloride suspension. The internal temperature was kept between 5 to 20° C. and the pH was carefully monitored and maintained at 11.5 during the quench using a slow addition of 10M KOH when necessary. The suspension was allowed to stir for 10 min at 5° C. after the addition was complete, and at ambient temperature for 2 h. The crude product was extracted from the aqueous layer with DCM (5×500 mL), dried with MgSO4, filtered and concentrated in vacuo to a total volume of about 500 mL. The solution was allowed to sit at ambient temperature overnight. The precipitate was collected by filtration, washed with additional DCM and dried, affording a light grey solid (9.79 g) which was confirmed by analytical LCMS and 1H-NMR as the free base. The DCM mother liquor was concentrated and taken up with a methanol/DCM mixture (300 mL, 15/85). To the light green solution was slowly added 30 mL 4N HCl in dioxane and the mixture were stirred for one hour at ambient temperature. 1200 mL of MTBE was slowly added and the resultant suspension was filtered. Chromatography on silica gel plug with methanol/DCM (3/97) afforded a yellow solid. The solid was washed with warm methanol (30 mL) and the resulting product was collected by filtration and washed with additional diethyl ether, affording an additional 1.7 g of the product as a free base. (9.79+1.7=11.49 g, 75% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.18 (t, J=7.33 Hz, 3 H) 2.32 (s, 3 H) 3.44 (q, J=7.33 Hz, 2 H) 7.70 (d, J=1.26 Hz, 1 H) 7.93 (t, J=7.71 Hz, 1 H) 8.04-8.15 (m, 2 H) 8.21 (d, J=10.61 Hz, 2 H) 8.53 (d, J=1.52 Hz, 1 H) 12.78 (br. s., 1 H). ESI-MS: m/z 386.3 (M+H)+.

reactant | 5-[3-(ethylsulfonyl)phenyl]-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one | 39.584 mmol, 19.3 g | C(C)S(=O)(=O)C=1C=C(C=CC1)C1=CN(C(C2=C1C=1C(=NC=C(C1)C)N2)=O)CC2=CC=C(C=C2)OC | C27H25N3O4S
reactant | POCl3 | 1626.905 mmol, 249.5 g | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | tetramethylammonium chloride | 43.542 mmol, 4.77 g | [Cl-].C[N+](C)(C)C
product | 8-chloro-5-[3-(ethylsulfonyl)phenyl]-3-methyl-9H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine | 9.79 g | ClC1=NC=C(C2=C1NC1=NC=C(C=C12)C)C1=CC(=CC=C1)S(=O)(=O)CC | C19H16ClN3O2S
